US08067621B2
To a solution of isomer A product from Step 1 (1.62 g, 4.23 mmol) in THF (50 mL) was added NaH 60% (540 mg, 13.4 mmol) followed by benzylbromide (1.5 mL, 13.4 mmol) and the reaction was stirred at 55 C overnight. The cooled mixture was poured into water, extracted with EtOAc, dried over Na2SO4 and concentrated. The residue was purified by flash-chromatography over silica gel (eluted with Hexanes/AcOEt 99:1 to 50:50) to afford 1.07 g (53%) of allylbenzylether isomer A.

reactant | NaH | 13.4 mmol, 540 mg | [H-].[Na+]
reactant | benzylbromide | 13.4 mmol, 1.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | allylbenzylether | 1.07 g, 53% | C(C=C)OCC1=CC=CC=C1 | C10H12O
